US05244908
Synthesis of 5-[1-(methylsulfonyl)-4-piperidyloxy]-3-nitroimidazo[1,2-a]pyridine (Compound 194)
To a solution of 4-hydroxy-1-methylsulfonylpiperidine (2.15 g, 12 mmoles) in dimethylformamide (3 ml) was added 60% sodium hydride in oil (0.48 g, 12 mmoles) with stirring under ice-cooling and the mixture was stirred at room temperature for 10 minutes. To the reaction mixture was added 5-chloro-3-nitroimidazo[1,2-a]pyridine (1.976 g, 10 mmoles) with stirring under ice-cooling and the mixture was stirred at the same temperature for 30 minutes. The reaction mixture was poured into water, which was extracted with ethyl acetate. The precipitate was filtered off, washed with water and dried to obtain 1.862 g of the desired product (54.7%, yellow solid). The organic layer was washed with water and dried over anhydrous magnesium sulfate. After the solventy was distilled off, the crude crystlals thus obtained were recrystallized from methylene-n-hexane to obtain 460 mg of the desired product (460 mg, tan solid).

reactant | 4-hydroxy-1-methylsulfonylpiperidine | 12 mmoles, 2.15 g | OC1CCN(CC1)S(=O)(=O)C | C6H13NO3S
reactant | sodium hydride | [H-].[Na+]
reactant | 5-chloro-3-nitroimidazo[1,2-a]pyridine | 10 mmoles, 1.976 g | ClC1=CC=CC=2N1C(=CN2)[N+](=O)[O-] | C7H4ClN3O2
reactant | water | O | H2O
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 5-[1-(methylsulfonyl)-4-piperidyloxy]-3-nitroimidazo[1,2-a]pyridine | 1.862 g, 54.7% | CS(=O)(=O)N1CCC(CC1)OC1=CC=CC=2N1C(=CN2)[N+](=O)[O-] | C13H16N4O5S
